US08604061B2
c) (R)-4-Benzenesulfonylmethyl-4,5-dihydro-oxazol-2-ylamine
((R)-2-Benzenesulfonyl-1-hydroxymethyl-ethyl)-carbamic acid tert-butyl ester (0.29 g, 0.92 mmol) was dissolved in ethanol (2 ml), hydrochloric acid in ethanol (5M, 5 ml) was added and the mixture was stirred at 60° C. for 3 hours. The solvent was evaporated and the residue was taken up in tetrahydrofuran (5 ml). K2CO3 (0.326 g, 2.36 mmol) and cyanogen bromide (0.136 g, 1.29 mmol) were added. The mixture was stirred overnight and afterwards partitioned between ethyl acetate and water. The combined organic layers were dried (MgSO4), filtered and evaporated. The residue was purified by column chromatography (SiO2, EtOAc/MeOH=95:5 to yield a white solid, (0.062 g, 28%); MS (ISP): 241.1 ((M+H)+.).

reactant | ((R)-2-Benzenesulfonyl-1-hydroxymethyl-ethyl)-carbamic acid tert-butyl ester | 0.92 mmol, 0.29 g | C(C)(C)(C)OC(N[C@@H](CS(=O)(=O)C1=CC=CC=C1)CO)=O | C14H21NO5S
reactant | hydrochloric acid | Cl | ClH
reactant | K2CO3 | 2.36 mmol, 0.326 g | C(=O)([O-])[O-].[K+].[K+]
reactant | cyanogen bromide | 1.29 mmol, 0.136 g | N#CBr | CBrN
solvent | ethanol | 2 ml | C(C)O | C2H6O
solvent | ethanol | 5M, 5 ml | C(C)O | C2H6O
product | (R)-4-Benzenesulfonylmethyl-4,5-dihydro-oxazol-2-ylamine | C1(=CC=CC=C1)S(=O)(=O)C[C@@H]1N=C(OC1)N | C10H12N2O3S
